Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
transient double vision and speech changes
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
The pt is a ___ year-old man with pmhx of depression, erectile
dysfunction and HLD who presents with acute onset diplopia, gait
instability and difficulty with speech which started around 
08:45
am this morning. Pt reports that he woke up this morning and was
in his usual state of health, went downstairs to eat a 
___
breakfast sandwhich and sat down to watch TV with his wife when
he noticed the image in the TV appearing double. Describes it as
images being next to each other. Did not try to cover either eye
to see if this would resolve diplopia. He denies any nausea,
emesis, vertigo, headache, numbness or focal weakness during 
this
episode. No loss of vision. His wife noticed that he sounds
funny, talking more slowly and mumbling. He himself did not
notice any change in his speech. His wife called his sister who
is a nurse who recommended to call EMS. When EMS arrived MR.
___ was noted to have a mildly unsteady gait, but did not
veer to any particular direction and did not fall. He states 
that
he sometimes in the past gets blurry and at times even double
vision but this usually resolves within a few seconds to minutes
but has never been as sustained as this time. 
In the ED a code stroke was called, NIHSS was 0. His symptoms 
had
completely resolved. CTA head and neck negative for acute
intracranial process, patent vessels. 
Of note he took sildenafil last night and was recently started 
on
Fluoxetine (4 weeks ago) for depression.  

On neuro ROS as in HPI, the pt denies headache, loss of vision,
dysphagia, lightheadedness, vertigo, tinnitus or hearing
difficulty. Denies focal weakness, numbness, parasthesiae. No
bowel or bladder incontinence or retention. Denies difficulty
with gait.

On general review of systems, the pt denies recent fever or
chills.  No night sweats or recent weight loss or gain. Denies
cough, shortness of breath.  Denies chest pain or tightness,
palpitations.  Denies nausea, vomiting, diarrhea, constipation 
or
abdominal pain.  No recent change in bowel or bladder habits.  
No
dysuria.  Denies arthralgias or myalgias. Denies rash.
 
Past Medical History:
COLONIC POLYPS ADENOMA                                          
DEPRESSION                                                      
HEARING LOSS                                                    
PLANTAR FASCIITIS                                               
PNEUMOTHORAX                                                    
SEXUAL DYSFUNCTION                                              
HYPERCHOLESTEROLEMIA                                            
INSOMNIA   
 
Social History:
___
Family History:
Colon CA, Renal CA in father 
 
Physical ___:
ADMISSION Physical Exam:
Vitals: P:84  R:16  BP:180/80  SaO2:97%RA
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity
Pulmonary: CTAB, no increased work of breathing
Cardiac: RRR, nl
Abdomen: soft, NT/ND, normoactive bowel sounds, no masses or
organomegaly noted.
Extremities: No C/C/E bilaterally
Skin: no rashes or lesions noted.

Neurologic:

-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive, able to name ___. Language is
fluent with intact repetition and comprehension. Normal prosody.
There were no paraphasic errors. Pt was able to name both high
and low frequency objects.  Able to read without difficulty.
Speech was not dysarthric. Able to follow both midline and
appendicular commands. Pt was able to register 3 objects and
recall ___ at 5 minutes. The pt had good knowledge of current
events. There was no evidence of apraxia or neglect.

-Cranial Nerves:
I: Olfaction not tested.
II: PERRL 3 to 2mm and brisk. VFF to confrontation. 
III, IV, VI: EOMI without nystagmus. Normal saccades.
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

- Motor - Normal bulk and tone. No drift. 
   [Delt] [Bic] [Tri] [ECR] [IP] [Quad] [Ham] [TA] [Gas]
    [C5]  [C5]  [C7]  [C6]  [L2]  [L3]  [L5]  [L4] [S1]
 L   5     5     5     5     5    5     5     5     5    
 R   5     5     5     5     5    5     5     5     5    

-DTRs:  
       [Bic] [Tri] [___] [Quad] 
     L  2+    2+     2+      2+       
     R  2+    2+     2+      2+         
Plantar response flexor bilaterally. 

-Sensory: No deficits to light touch and pinprick. No extinction
to DSS.

-Coordination: No intention tremor, no dysdiadochokinesia noted.
No dysmetria on FNF or HKS bilaterally.

-Gait: Good initiation. Narrow-based, normal stride and arm
swing.  Able to walk in tandem without difficulty. Romberg
absent.
===============================================
DISCHARGE PHSYICAL EXAMINATION: 
VS: Tm/c: 98.1/97.9 BP: 130-166/75-86 HR: ___ RR 18 SaO2 
93-94% RA
General: Awake, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM
Pulmonary: breathing comfortably on RA
Cardiac: skin warm, well-perfused. No pallor nor diaphoresis. 
Abdomen: soft, ND
Extremities: symmetric, no edema. 
Skin: no rashes or lesions noted.

Neurologic:
-Mental Status: Alert, oriented x 3 and to medical situation. 
Language is fluent with intact repetition, no paraphasic errors. 
Pt was able to name both high and low frequency objects. 
Comprehension intact to multi-step commands.  There was no 
evidence of apraxia or neglect.

-Cranial Nerves:
I: Olfaction not tested.
II: PERRL 3 to 2mm and brisk. VFF to confrontation. 
III, IV, VI: EOMI without nystagmus. 
V: Facial sensation intact to light touch.
VII: No facial droop, facial activation symmetric.
VIII: Hearing intact to loud conversation
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline.

- Motor - Normal bulk and tone. No pronator drift. Strength ___ 
throughout BUE, BLE. 

-Sensory: No deficits to light touch and pinprick. No extinction 
to DSS.

-Coordination: No dysmetria on FNF bilaterally

 
Pertinent Results:
___ 09:50AM BLOOD WBC-7.0 RBC-5.24 Hgb-14.1 Hct-44.2 MCV-84 
MCH-26.9 MCHC-31.9* RDW-13.8 RDWSD-42.4 Plt ___
___ 07:05PM BLOOD WBC-8.7 RBC-5.29 Hgb-14.8 Hct-44.6 MCV-84 
MCH-28.0 MCHC-33.2 RDW-14.0 RDWSD-43.2 Plt ___
___ 09:50AM BLOOD ___ PTT-30.8 ___
___ 07:05PM BLOOD Glucose-140* UreaN-10 Creat-0.9 Na-140 
K-3.8 Cl-102 HCO3-25 AnGap-17
___ 07:05PM BLOOD ALT-18 AST-20 LD(LDH)-232 CK(CPK)-219 
AlkPhos-63 TotBili-0.7
___ 09:50AM BLOOD Lipase-18
___ 07:05PM BLOOD GGT-21
___ 09:50AM BLOOD cTropnT-<0.01
___ 07:05PM BLOOD CK-MB-3 cTropnT-<0.01
___ 09:15PM BLOOD cTropnT-<0.01
___ 07:05PM BLOOD TotProt-6.3* Albumin-3.9 Globuln-2.4 
Cholest-239*
___ 07:05PM BLOOD %HbA1c-5.6 eAG-114
___ 07:05PM BLOOD Triglyc-78 HDL-77 CHOL/HD-3.1 
LDLcalc-146*
___ 07:05PM BLOOD TSH-2.3
___ 07:05PM BLOOD CRP-3.2
___ 09:50AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 07:05PM BLOOD SED RATE-2   
  
Imaging: 
CTA head and neck ___
NECT: No acute intracranial process.
CTA: No occlusion, stenosis, or dissection is identified in 
major
intracranial and cervical arteries.
Multiple thyroid nodules measuring up to 1 cm are identified.

MRI brain ___: No evidence of hemorrhage or acute 
infarction.

 
Brief Hospital Course:
Mr. ___ was admitted for stroke workup after a transient 
episode of diplopia and difficulty speaking (unclear aphasia vs 
dysarthria), all of which had resolved on presentation to the 
ED. MRI brain was without infarct. Echo was without intracardiac 
thrombus. He was monitored on telemetry throughout admission 
without tachyarrhythmia, and was discharged with 30 day cardiac 
monitoring. 
Stroke risk factors: LDL 146, HbA1c 5.6%, TSH 2.3. He was 
started on ASA 81 daily and atorvastatin 40 qhs. His exam was 
normal at the time of discharge, without focal deficits. 
He will follow up with PCP and stroke neurology. 

Stroke risk factors include: 
HLD with LDL 146 not previously on statin therapy
borderline hypertension. 

=================================
Transitional Issues: 
[ ] PCP: ___ BP over time and monitor for development of 
hypertension. ___ LDL and adjust statin as needed to obtain goal 
LDL <70
[ ] Neurology: ___ cardiac monitoring, and consider extended 
monitoring if negative. 

=============================================
AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack  
1. Dysphagia screening before any PO intake? (x) Yes, confirmed 
done - () Not confirmed – () No  
2. DVT Prophylaxis administered? (x) Yes - () No  
3. Antithrombotic therapy administered by end of hospital day 2? 
(x) Yes - () No  
4. LDL documented? (x) Yes (LDL = 146) - () No  
5. Intensive statin therapy administered? (simvastatin 80mg, 
simvastatin 80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, 
rosuvastatin 20mg or 40mg, for LDL > 100) (x) Yes - () No [if 
LDL >100, reason not given: ]  
6. Smoking cessation counseling given? () Yes - (x) No [reason 
(x) non-smoker - () unable to participate]  
7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given (verbally or 
written)? (x) Yes - () No  
8. Assessment for rehabilitation or rehab services considered? 
(x) Yes - () No  
9. Discharged on statin therapy? (x) Yes - () No [if LDL >100, 
reason not given: ]  
10. Discharged on antithrombotic therapy? (x) Yes [Type: (x) 
Antiplatelet - () Anticoagulation] - () No  
11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? () Yes - () No - (x) N/A  
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Triamcinolone Acetonide 0.1% Cream 1 Appl TP BID 
2. Zolpidem Tartrate ___ mg PO QHS 
3. tadalafil 10 mg oral q36 hours prn intercourse 
4. FLUoxetine 10 mg PO DAILY 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*5 
2.  Atorvastatin 40 mg PO QPM 
RX *atorvastatin 40 mg 1 tablet(s) by mouth nightly Disp #*30 
Tablet Refills:*5 
3.  FLUoxetine 10 mg PO DAILY  
4.  tadalafil 10 mg oral q36 hours prn intercourse  
5.  Triamcinolone Acetonide 0.1% Cream 1 Appl TP BID  
6.  Zolpidem Tartrate ___ mg PO QHS  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Transient Ischemic Attack
Hyperlipidemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,  
You were hospitalized due to symptoms of transient double vision 
and trouble speaking resulting from a TRANSIENT ISCHEMIC ATTACK, 
a condition where a blood vessel providing oxygen and nutrients 
to the brain is blocked by a clot. The brain is the part of your 
body that controls and directs all the other parts of your body, 
so damage to the brain from being deprived of its blood supply 
can result in a variety of symptoms.  
Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:  
High cholesterol
Borderline hypertension
  
We are changing your medications as follows:  
Start baby aspirin (81 mg daily)
Start a cholesterol medicine, atorvastatin. 
 
Please take your other medications as prescribed.  
Please followup with Neurology and your primary care physician 
as listed below.  
If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:  
- Sudden partial or complete loss of vision  
- Sudden loss of the ability to speak words from your mouth  
- Sudden loss of the ability to understand others speaking to 
you  
- Sudden weakness of one side of the body  
- Sudden drooping of one side of the face  
- Sudden loss of sensation of one side of the body  

Sincerely, 
Your ___ Neurology Team
 
Followup Instructions:
___